US07838675B2
i) 1,1-Dimethylethyl (S)-4-[6-chloro-2-[[(2,3-difluorophenyl)methyl]thio]pyrimidin-4-yloxy]-isoxazolidine-2-carboxylate
To a stirred solution of 4,6-Dichloro-2-[(2,3-difluorobenzyl)thio]pyrimidine (the product of Example 1, step ii) (0.25 g) and 1,1-dimethylethyl (S)-4-hydroxyisoxazolidine-2-carboxylate (0.16 g) in dry THF (5 mL) was added 60% Sodium hydride (0.034 g) over 5 min. The reaction mixture was stirred and heated at 60° C. for 7 days, H2O was added and the solvents were partially evaporated. The residue was extracted with EtOAc which was washed with H2O, dried (MgSO4) and the solvent evaporated under reduced pressure. The residue was purified by flash chromatography on silica gel, eluting with Et2O/iso-hexane (1:9) to give the subtitle compound as a gum. Yield: 0.15 g.

reactant | 4,6-Dichloro-2-[(2,3-difluorobenzyl)thio]pyrimidine | ClC1=NC(=NC(=C1)Cl)SCC1=C(C(=CC=C1)F)F | C11H6Cl2F2N2S
reactant | 1,1-dimethylethyl (S)-4-hydroxyisoxazolidine-2-carboxylate | 0.16 g | O[C@H]1CN(OC1)C(=O)OC(C)(C)C | C8H15NO4
reactant | Sodium hydride | 0.034 g | [H-].[Na+]
reactant | H2O | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1,1-Dimethylethyl (S)-4-[6-chloro-2-[[(2,3-difluorophenyl)methyl]thio]pyrimidin-4-yloxy]-isoxazolidine-2-carboxylate | ClC1=CC(=NC(=N1)SCC1=C(C(=CC=C1)F)F)O[C@H]1CN(OC1)C(=O)OC(C)(C)C | C19H20ClF2N3O4S
